US09403797B2
A mixture of 2-chloro-5-iodopyridin-4-amine (262 mg, 1.03 mmol), excess paraformaldehyde (618 mg, 21 mmol) and AcOH (10.3 mL) was stirred at 40° C. for 15 minutes, followed by addition of excess sodium triacetoxyborohydride (4.8 g, 23 mmol). After stirring for 2.5 hours, further paraformaldehyde (236 mg, 7.86 mmol) and sodium triacetoxyborohydride (1.83 g, 8.63 mmol) were added. After 18 hours, the mixture was diluted with water and basified with NaHCO3. The mixture was extracted with EtOAc (3×30 mL). The combined organic extracts were dried and evaporated onto silica. Gradient chromatography, eluting with 5-10% EtOH: CH2Cl2 over 17 column volume, gave 2-chloro-N-ethyl-5-iodopyridin-4-amine (291 mg, 1.03 mmol, 100% yield). LC-MS (LCT, 3.5 minutes) Rt=2.56 minutes; m/z (ESI) 282 (M+H). The material was reacted with 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following General Procedure i to give 2-chloro-N-ethyl-5-(1-methyl-1H-pyrazol-4-yl)pyridin-4-amine.

reactant | 2-chloro-5-iodopyridin-4-amine | 1.03 mmol, 262 mg | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | paraformaldehyde | 21 mmol, 618 mg | C=O | CH2O
reactant | AcOH | 10.3 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 23 mmol, 4.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | paraformaldehyde | 7.86 mmol, 236 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 8.63 mmol, 1.83 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-ethyl-5-iodopyridin-4-amine | 1.03 mmol, 291 mg, 100% yield | ClC1=NC=C(C(=C1)NCC)I | C7H8ClIN2
